US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (941 mg, 1.81 mmol) (obtained as described in Reference Example 30(1)) in anhydrous tetrahydrofuran (47 ml) was added a solution of 1.0M tetra-n-butylammonium fluoride in tetrahydrofuran (2.17 ml, 2.17 mmol) in an ice bath, and the mixture was stirred for 1 hour. After checking the completion of the reaction, the reaction mixture was concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using ethyl acetate:methanol (3:1) as the eluant to afford 3-hydroxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine (422 mg, yield 83%) as a white solid.

reactant | 3-t-butyldiphenylsilyloxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 1.81 mmol, 941 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)C(=O)N1CCN(CC1)C | C28H36N4O2SSi
reactant | tetra-n-butylammonium fluoride | 1.0M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 47 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.17 mmol, 2.17 ml | O1CCCC1 | C4H8O
product | 3-hydroxy-1-[4-(4-methylpiperazine-1-carbonyl)-1,3-thiazol-2-yl]azetidine | 422 mg, yield 83% | OC1CN(C1)C=1SC=C(N1)C(=O)N1CCN(CC1)C | C12H18N4O2S
